US05204326
Preparation of Boc-Gly-Leu-Gly-OH
By using 6.41 g of Boc-Leu-Gly-OH and 6.04 g of Boc-Gly-OSu, and the same procedure as in Reference Example 31 was repaeted to obtain 4.67 g (yield: 61.4%) of the above-mentioned objective product.

reactant | Boc-Leu-Gly-OH | 6.41 g | N([C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
reactant | Boc-Gly-OSu | 6.04 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
product | Boc-Gly-Leu-Gly-OH | 4.67 g, yield: 61.4% | N(CC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C15H27N3O6
